US05053509
(RS)-1-Cyclopropyl-7-fluoro-8-[3-(4-fluorophenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 11 below, but starting with 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (2 g), (RS)-2-(4-fluorophenyl)piperazine (6.534 g) and triethylamine (9 cc). The reaction mixture is concentrated under reduced pressure (20 kPa) at a temperature in the region of 60° C. The dry extract is taken up with water (20 cc) and acetic acid (0.5 cc). The insoluble matter is drained and washed with water (2×5 cc). After 1 recrystallization in a mixture of dimethylformamide (37 cc) and ethanol (37 cc), (RS)-1-cyclopropyl-7-fluoro-8-[3-(4-fluorophenyl) -1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid (1.07 g) is obtained in the form of a yellow solid, m.p. 306° C.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 2 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2CC2)C1)F | C16H10ClFN2O3
reactant | (RS)-2-(4-fluorophenyl)piperazine | 6.534 g | FC1=CC=C(C=C1)C1NCCNC1 | C10H13FN2
solvent | triethylamine | 9 cc | C(C)N(CC)CC | C6H15N
product | (RS)-1-cyclopropyl-7-fluoro-8-[3-(4-fluorophenyl) -1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 1.07 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C3=CC=C(C=C3)F)=O)C(=O)O | C26H22F2N4O3
